US07893058B2
Step 1: 4-Bromo-5-trifluoromethyl-pyrazole-1-carboxylic acid tert-butyl ester
To a solution of 4-bromo-5-trifluoromethyl-1H-pyrazole (0.515 g, 2.4 mmol) in CH3CN at 0° C is added (Boc)2O (0.63 g, 2.89 mmol) followed by DMAP (0.29 g, 2.4 mmol). The reaction mixture is stirred overnight at room temperature. After removing the solvent, the residue is dissolved in DCM and washed with water, 2M HCl, sat. NaHCO3 and brine. The organic layer is dried over MgSO4, filtered and concentrated in vacuo to afford the title compound (0.55 g, 73%).

reactant | 4-bromo-5-trifluoromethyl-1H-pyrazole | 2.4 mmol, 0.515 g | BrC=1C=NNC1C(F)(F)F | C4H2BrF3N2
reactant | (Boc)2O | 2.89 mmol, 0.63 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | CC#N | C2H3N
catalyst | DMAP | 2.4 mmol, 0.29 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Bromo-5-trifluoromethyl-pyrazole-1-carboxylic acid tert-butyl ester | 0.55 g, 73% | C(C)(C)(C)OC(=O)N1N=CC(=C1C(F)(F)F)Br | C9H10BrF3N2O2
